US05620997
4-(3-Oxo-3h-benz-[d]isothiazol-2-yl)-phenyl acetic acid
Using the procedure of Example 13, 1.5 g (2.6 mmol) of 4-[2-[2-(4-carboxymethylphenylcarbamoyl) phenyldisulfanyl]benzoylamino] phenylacetic acid was reacted with bromine to give 0.62 g of the title compound, mp 173°-175° C.

reactant | 4-[2-[2-(4-carboxymethylphenylcarbamoyl) phenyldisulfanyl]benzoylamino] phenylacetic acid | 2.6 mmol, 1.5 g | C(=O)(O)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC=C(C=C2)CC(=O)O)C=CC=C1 | C30H24N2O6S2
reactant | bromine | BrBr | Br2
product | 4-(3-Oxo-3h-benz-[d]isothiazol-2-yl)-phenyl acetic acid | 0.62 g | O=C1N(SC2=C1C=CC=C2)C2=CC=C(C=C2)CC(=O)O | C15H11NO3S
